US04344943
To a solution of 175 mg of 5-p-chlorobenzoyl-6-chloro-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid in 5 ml of methanol is added 1 molar equivalent of potassium hydroxide, in the form of a 0.1 N solution, thus yielding a solution containing potassium 5-p-chlorobenzoyl-6-chloro-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate. A solution of 40 mg of calcium carbonate dissolved in the minimum amount of 1 N hydrochloric acid necessary to effect solution of the calcium carbonate, is buffered with 100 mg of solid ammonium chloride, followed by the further addition of 5 ml of water. The thus obtained buffered calcium solution is then added to the solution of potassium 5-p-chlorobenzoyl-6-chloro-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate and the precipitate which forms is collected by filtration, washed with water and air dried to yield calcium 5-p-chlorobenzoyl-6-chloro-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate.

reactant | potassium 5-p-chlorobenzoyl-6-chloro-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate | ClC1=CC=C(C(=O)C2=C(C=C3N2CCC3C(=O)[O-])Cl)C=C1.[K+]
reactant | calcium carbonate | 40 mg | C([O-])([O-])=O.[Ca+2]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | calcium | [Ca] | Ca
solvent | hydrochloric acid | 1 N | Cl | ClH
solvent | water | 5 ml | O | H2O
product | calcium 5-p-chlorobenzoyl-6-chloro-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate | ClC1=CC=C(C(=O)C2=C(C=C3N2CCC3C(=O)[O-])Cl)C=C1.[Ca+2].ClC1=CC=C(C(=O)C3=C(C=C2N3CCC2C(=O)[O-])Cl)C=C1 | InChI=1S/2C15H11Cl2NO3.Ca/c2*16-9-3-1-8(2-4-9)14(19)13-11(17)7-12-10(15(20)21)5-6-18(12)13;/h2*1-4,7,10H,5-6H2,(H,20,21);/q;;+2/p-2
